US03969468
The procedure described in Example 11 is repeated except that 10 g of 1-phenyl-2-(N-benzyl)amino-3-hydroxy-3,4-dimethyl-6-methoxyhexane obtained according to the procedure described in Example 5 is used in place of 1-(p-methoxy)phenyl-2-(N-benzyl)amino-3-hydroxy-3,4-dimethyl-6-methoxyhexane and 95% sulfuric acid is used in place of 93% sulfuric acid. As the result, 6 g of 1-phenyl-2-(N-benzyl)amino-3,4-dimethyl-6-methoxy-3-hexene is obtained as fractions having a boiling point of 191° - 196°C/1 mm Hg.

reactant | 1-phenyl-2-(N-benzyl)amino-3-hydroxy-3,4-dimethyl-6-methoxyhexane | 10 g | C1(=CC=CC=C1)CC(C(C(CCOC)C)(C)O)NCC1=CC=CC=C1 | C22H31NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-phenyl-2-(N-benzyl)amino-3,4-dimethyl-6-methoxy-3-hexene | 6 g | C1(=CC=CC=C1)CC(C(=C(CCOC)C)C)NCC1=CC=CC=C1 | C22H29NO
